US08754100B2
Synthesis of 4-(4-trifluoromethylphenyl)-4,5,6,7-tetrahydrobenzothiazol-2-ylamine
The diastereomer mixture of 2-bromo-6-(4-trifluoromethylphenyl)cyclohexanone (500 mg) was dissolved in ethanol (10 mL). Thiourea (130 mg) was added and the mixture was stirred at room temperature overnight. A sodium bicarbonate solution and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (394 mg).

reactant | 2-bromo-6-(4-trifluoromethylphenyl)cyclohexanone | 500 mg | BrC1C(C(CCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C13H12BrF3O
reactant | Thiourea | 130 mg | NC(=S)N | CH4N2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-(4-trifluoromethylphenyl)-4,5,6,7-tetrahydrobenzothiazol-2-ylamine | 394 mg | FC(C1=CC=C(C=C1)C1CCCC2=C1N=C(S2)N)(F)F | C14H13F3N2S
